US07262185B2
4-methyl-3-[[2-[(4-nitrophenyl)thio]ethyl]thio]-1,2,4-triazole (1.4 g) was dissolved in 85% ethanol (42 ml), calcium chloride (0.26 g) and reduced iron (1.32 g) were added to the mixture, and the mixture was heated to reflux for 3 hours. After cooling to room temperature, the mixture was filtered with Celite, and washed with ethyl acetate. The solvent was removed under reduced pressure, and water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-[[2-[(4-methyl-1,2,4-triazol-3-yl)thio]ethyl]thio]aniline (0.38 g).

reactant | 4-methyl-3-[[2-[(4-nitrophenyl)thio]ethyl]thio]-1,2,4-triazole | 1.4 g | CN1C(=NN=C1)SCCSC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N4O2S2
reactant | calcium chloride | 0.26 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 42 ml | C(C)O | C2H6O
product | 4-[[2-[(4-methyl-1,2,4-triazol-3-yl)thio]ethyl]thio]aniline | 0.38 g | CN1C(=NN=C1)SCCSC1=CC=C(N)C=C1 | C11H14N4S2
